US06248736B1
N-(4-Chlorobenzyl)-1-(2-hydroxyethyl)-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide.
To a flask containing N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide from Preparation No. 4 (0.37 g) is added potassium carbonate (2.75 g) and bromoethanol (0.71 mL). The flask is tightly capped and heated to 100° C. After 4 hours the reaction is cooled to room temperature and partioned between dichloromethane containing methanol and water. The organic layer is washed with two additional portions of water, brine, dried and concentrated under reduced pressure. The residue is adsorbed onto silica and chromatographed on silica eluting with 2% to 10% methanol in dichloromethane to afford 0.09 g of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)C#CCO)C=C1 | C20H15ClN2O3
reactant | potassium carbonate | 2.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoethanol | 0.71 mL | BrC(C)O | C2H5BrO
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | N-(4-Chlorobenzyl)-1-(2-hydroxyethyl)-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.09 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)C#CCO)CCO)C=C1 | C22H19ClN2O4
